US20010019995A1
1,1,2-Tribromo-2-(7-carboxyheptyl)-cyclopropane (1.28 g, 3.1 mmol) was dissolved in 60 ml of ether and cooled to −78° C. Methyllithium (9.0 ml, 12.6 mmol) was added and the reaction was stirred at −78° C. for two hours. The reaction mixture was put in an ice bath for 5 minutes, then recooled to −78° C. until workup. Water was added to the reaction mixture, which was warmed to room temperature. The aqueous phase was separated, and the ether phase was extracted with three times with 1N NaOH solution. The combined aqueous extracts were acidified with aqueous HCl, and extracted with ether three times. The ether extracts were washed with brine, dried over magnesium sulfate and stripped to give 300 mg of 7-cycloprop-1-enyl-heptanoic acid.

reactant | 1,1,2-Tribromo-2-(7-carboxyheptyl)-cyclopropane | 3.1 mmol, 1.28 g | BrC1(C(C1)(CCCCCCCC(=O)O)Br)Br | C11H17Br3O2
reactant | Methyllithium | 12.6 mmol, 9.0 ml | C[Li]
reactant | Water | O | H2O
reactant | ether | 60 ml | CCOCC | C4H10O
product | 7-cycloprop-1-enyl-heptanoic acid | 300 mg | C1(=CC1)CCCCCCC(=O)O | C10H16O2
